US09359338B2
Step 1: Synthesis of 1-(3-bromo-5-(trifluoromethyl)phenylamino)propan-2-ol
Add propylene oxide (36 mg, 0.624 mmol) and lithium perchlorate (56 mg, 0.458 mmol) to the solution of 3-bromo-5-(trifluoromethyl)aniline (100 mg, 0.416 mmol) in acetonitrile (5 mL), stir the resulting mixture overnight at ambient temperature. Upon completion of the reaction, concentrate the mixture under reduced pressure. Purify the residue by flash chromatography (silica gel, PE:EtOAc=5:1) to afford the product (136 mg, 100%).

reactant | propylene oxide | 0.624 mmol, 36 mg | C1C(C)O1 | C3H6O
reactant | lithium perchlorate | 0.458 mmol, 56 mg | Cl(=O)(=O)(=O)[O-].[Li+]
reactant | 3-bromo-5-(trifluoromethyl)aniline | 0.416 mmol, 100 mg | BrC=1C=C(N)C=C(C1)C(F)(F)F | C7H5BrF3N
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | 1-(3-bromo-5-(trifluoromethyl)phenylamino)propan-2-ol | 136 mg, 100% | BrC=1C=C(C=C(C1)C(F)(F)F)NCC(C)O | C10H11BrF3NO
